US05886178
An aqueous solution of lithium hydroxide (2 g /10 ml of water) was added to a solution of methyl 2-(2-fluorophenyl)-2-(6-chloropyridazin-3-yl)acetate (4.25 g, 14.84 mmol) [prepared as described above] in methanol (30 ml). After 1.5 h, acetic acid (10 ml) was added and the stirring was continued overnight. The product was extracted into ether, and the extract was washed with water, aqueous NaHCO3, and brine, and dried over MgSO4. The solvent was removed in vacuo and the crude was chromatographed on a silica gel column (10% ethyl acetate in hexanes) to give 6-(2-fluorobenzyl)-3-chloropyridazine (2.56 g) as an oil.

reactant | lithium hydroxide | 10 ml, 2 g | [OH-].[Li+]
reactant | methyl 2-(2-fluorophenyl)-2-(6-chloropyridazin-3-yl)acetate | 14.84 mmol, 4.25 g | FC1=C(C=CC=C1)C(C(=O)OC)C=1N=NC(=CC1)Cl | C13H10ClFN2O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 30 ml | CO | CH4O
product | 6-(2-fluorobenzyl)-3-chloropyridazine | 2.56 g | FC1=C(CC2=CC=C(N=N2)Cl)C=CC=C1 | C11H8ClFN2
